US07544826B2
A mixture of 38.7 g (186 mmol) of 8-bromoquinoline and 250 ml of tetrahydrofuran was cooled to −80° C., and 74.4 ml of n-butyllithium (2.5 M in hexane, 186 mmol) were subsequently added while stirring. The mixture was stirred for a further 15 minutes and 49.9 g (186 mmol) of 2-methyl-3-(trimethylsilyloxy)cyclopent-2-enone were added while stirring. The mixture was allowed to warm to room temperature while stirring and stirring was continued for a further one hour. The reaction mixture was then hydrolyzed by means of a mixture of 40 g of ice and 30 ml of concentrated hydrochloric acid and the mixture obtained in this way was refluxed for 3 hours. The mixture was allowed to cool to room temperature while stirring and ammonia solution was added until a pH of 12 had been reached. The aqueous phase was then separated off from the organic phase and the aqueous phase was extracted twice with diethyl ether. The organic phases were combined, dried over magnesium sulfate, filtered and the solvent was distilled off. The residue obtained in this way was distilled at 119-139° C. and 2×10−2 mbar to give 31.1 g (139.3 mmol, 74.9%) of 2-methyl-3-(8-quinolyl)cyclopent-2-enone.

reactant | 8-bromoquinoline | 186 mmol, 38.7 g | BrC=1C=CC=C2C=CC=NC12 | C9H6BrN
reactant | n-butyllithium | 186 mmol, 2.5 M, 74.4 ml | C(CCC)[Li]
reactant | 2-methyl-3-(trimethylsilyloxy)cyclopent-2-enone | 186 mmol, 49.9 g | CC=1C(CCC1O[Si](C)(C)C)=O | C9H16O2Si
reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 2-methyl-3-(8-quinolyl)cyclopent-2-enone | 139.3 mmol, 31.1 g, 74.9% | CC=1C(CCC1C=1C=CC=C2C=CC=NC12)=O | C15H13NO
